data/mechanism_extracts/Angew/10.1002_anie.202425634_sup_1.json
{"doi": "10.1002_anie.202425634_sup_1", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical radical cyclopropanation of alkenes with diethyl malonate using a ferrocene mediator to form aryl-substituted cyclopropane-1,1-dicarboxylates", "mechanism_family": ["mediator_anodic", "radical_polar_crossover", "electrocatalysis_outer_sphere"], "electrochemical_role": "Anodic oxidation mediated by ferrocene (Fc/Fc+) generates a malonyl radical from diethyl malonate; the radical adds to the tethered alkene and after further oxidation the resulting carbanion (Int3) undergoes intramolecular SN2-type ring closure displacing iodide", "key_intermediates": [{"name": "malonyl radical (from diethyl malonate)", "smiles": "CCOC(=O)[CH]C(=O)OCC", "role": "reactive"}, {"name": "carbon-centered radical adduct after addition to alkene", "smiles": null, "role": "transient"}, {"name": "TEMPO adduct (compound 91) of the C-radical intermediate", "smiles": null, "role": "intermediate_trap"}, {"name": "iodinated malonate intermediate Int3 (anion after deprotonation)", "smiles": null, "role": "reactive"}, {"name": "cyclopropane product 1", "smiles": null, "role": "transient"}], "electron_flow": "Ferrocene is oxidized at the anode to Fc+, which oxidizes diethyl malonate to a malonyl radical; this radical adds across the tethered alkene to give a C-radical that is further oxidized/iodinated and deprotonated to Int3, which closes via SN2-type displacement of iodide to form the cyclopropane.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "TEMPO adduct 91 (C16H29NO5, HRMS m/z 316.2124) was detected, and TEMPO-malonate adduct 92 was also observed; desired cyclopropane product was not detected, supporting a radical intermediate"}], "evidence_types_used": ["intermediate_trap_TEMPO", "DFT", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "DFT (SMD(DMA/H2O)/ωB97M-V/def2-QZVPP//IEFPCM/M06-2X-D3/ma-SVP) supports an SN2-type ring closure from Int3 (ΔG = -29.7 kcal/mol, ΔG‡ = 7.3 kcal/mol) as thermodynamically and kinetically facile. Theoretical oxidation potentials were calculated to justify the Fc mediator (vs. SHE, with E_SHE^abs = 4.280 V). Alternative non-mediated direct anodic oxidation pathway was considered but mediator pathway is favored."}
